* Z:\mnt\design.r\spice\examples\3250-1.2.asc
C1 N002 N001 1µ
C2 0 OUT 2.7µ
V1 IN 0 5
Rload OUT 0 10
XU1 IN 0 IN N001 OUT N002 LTC3250-1.2
.tran 200u startup
.lib LTC3250-1.2.sub
.backanno
.end
